Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
increased episodes concerning for seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old R-handed man who presents with
___ episodes of speech arrests. 

About ___ years ago, he had a head strike, and resulting 
bleed.
About ___ years later, he developed seizures-"the quiet kind".  He
describes seizures as beginning with an aura of disorientation,
followed by "being paralyzed in place", if he was standing he
would remain in place, he would not fall.  He denies shaking. 
This would last for about a minute, and it was taken about 20
minutes to return to his baseline.  He has not had a seizure in
several years.  He has been well controlled on Lamictal.  

He was in his usual state of health today.  While he was sitting
in his psychology class studying Freud, he noticed that he had 1
or 2 episodes.  He describes these episode as a sudden onset of
inability to speak.  He denies attempting to speak, but 
describes
"it is as if I have lost speech as 1 of my abilities.  He
remained aware during this entire episode, which lasted for 
about
a minute.  It resolved immediately and he returned to baseline. 
He also describes this as if "I have gone into a parallel
universe".  He does not think anyone noticing plastic.  He went
home.  His wife asked him about his stay.  His wife at bedside
says that he started to speak, and then he just looks straight,
as if "he was a blank TV screen" for about a minute and then he
is able to start talking right where he stopped.

He had about ___ of these episodes today.  His wife was 
concerned
that this could be a stroke so she brought him into the 
emergency
room for evaluation.

Of note the patient has had eyelid surgery in the last 4 weeks. 
He also endorses shingles in the neck and the jaw 2 weeks
earlier.  

Per chart review, he follows with Dr. ___.  On his last exam
in ___, he was notable for slight bilateral intention
tremor, absent vibration, decreased pinprick and temperature 
loss
to the midfoot, which is attributed to neuropathy. He was
previously on Phenytoin, prior to Dr. ___ initial
visit in ___ (please see notes for details) at which time he
was transitioned to lamictal. 

Endorses dry cough at baseline
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies 
shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. 

 
Past Medical History:
Chest pain 
Undescended testicle 
Disc disorder of lumbar region 
Rhinitis, allergic 
Prostatic hypertrophy, benign 
Edema 
Angioedema 
Gout 
Hearing loss 
Hypercholesterolemia 
Screening for colon cancer 
Hypertension, essential 
Rotator cuff rupture 
Pseudophakia 
Cataract, secondary 
ERM OS (epiretinal membrane, left eye) 
Glaucoma primary, open angle 
Progressive high myopia 
Seizure disorder, complex partial 
Radial head fracture 
Shoulder impingement syndrome 
Scapular dyskinesis 

 
Social History:
___
Family History:
No Strokes, MI or Seizures. Father passed of prostate
cancer. Mother with AD 

 
Physical Exam:
PE:
Tmax 98.7 Tc 98.4F BP ___ (130/70) HR 50-59 (50) RR
___ O2 sat >94% RA

Neurologic:
Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Naming and repetition intact. Speech fluent,
no dysarthria.
Cranial Nerves: PERRL 3 to 2mm and brisk. EOM full with 
conjugate
gaze. VFF to confrontation. Facial sensation intact to light
touch.
No facial droop, facial musculature symmetric. Hearing intact to
finger-rub bilaterally. Palate elevates symmetrically. ___
strength in trapezii and SCM bilaterally. Tongue protrudes in
midline.

Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Sensory: No deficits to light touch.
DTRs: ___ intact.
Gait: deferred

 
Pertinent Results:
___ 04:40AM   GLUCOSE-95 UREA N-10 CREAT-0.9 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-16
___ 04:40AM   CALCIUM-9.5 PHOSPHATE-3.6 MAGNESIUM-2.1
___ 04:40AM   WBC-7.7 RBC-3.83* HGB-12.5* HCT-35.6* MCV-93 
MCH-32.6* MCHC-35.1 RDW-13.2 RDWSD-43.9
___ 10:59PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:53PM   GLUCOSE-109* UREA N-11 CREAT-1.0 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-26 ANION GAP-15
___ 06:53PM   ALT(SGPT)-17 AST(SGOT)-19 CK(CPK)-86 ALK 
PHOS-70 TOT BILI-0.5 DIR BILI-<0.2 INDIR BIL-0.5
___ 06:53PM   ALBUMIN-4.6 CALCIUM-9.8 PHOSPHATE-3.5 
MAGNESIUM-2.1
___ 06:53PM   TSH-2.2
___ 06:53PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:53PM   WBC-6.9 RBC-4.31* HGB-13.2* HCT-40.3 MCV-94 
MCH-30.6 MCHC-32.8 RDW-13.0 RDWSD-44.0
___ 06:53PM   NEUTS-77.5* LYMPHS-15.3* MONOS-5.2 EOS-1.3 
BASOS-0.4 IM ___ AbsNeut-5.31 AbsLymp-1.05* AbsMono-0.36 
AbsEos-0.09 AbsBaso-0.___ male with history of seizures s/p traumatic brain injury 
who presented with brief, repetitive episodes in which the 
patient had loss of speech and felt like he was in a mild trance 
concerning for increased seizure activity. The pt states that 
these episodes were shorter and not as intense as his previous 
seizures and that prior to the day of presentation that he had 
not had a seizure in over ___.  

During the hospital stay, he was monitored on EEG.  Prelim read 
of the EEG showed isolated left temporal discharges.  During the 
hospital stay, we increased his Lamotrigine dose to 150mg qAM 
and 200mg qPM.

Transitional Issues:
Lamotrigine 150mg/200mg
Follow up with home Neurologist, Dr. ___ in ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 100 mg PO QAM 
2. LamoTRIgine 200 mg PO QPM 
3. Terazosin 10 mg PO QHS 
4. Diltiazem 240 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
8. Ascorbic Acid ___ mg PO DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Diltiazem Extended-Release 240 mg PO DAILY  
2.  LamoTRIgine 150 mg PO DAILY  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  LamoTRIgine 200 mg PO QPM  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
8.  Terazosin 10 mg PO QHS  
9.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Followup Instructions:
___